US04859662
4-(Chloromethyl)-5-methyl-1-(triphenylmethyl)-1H-imidazole
A solution of thionyl chloride (1.3 ml) in dry dichloromethane (10 ml) was added over 5 min. to a stirred suspension of 5-methyl-1-(triphenylmethyl)-1H-imidazole-4-methanol (5.0 g) in a mixture of dichloromethane (100 ml) and dry DMF (2 ml) at 0°. The mixture was stirred at 0° for 30 min. and washed consecutively with 8% sodium bicarbonate (2×50 ml), water (50 ml), dired and evaporated in vacuo below 40° to give an oil (5 g). This was dissolved in ether (100 ml) and the resulting solution was filtered through a pad of silica which was further eluted with ether (2×100 ml). The combined filtrates were evaporated below 40° to give a foam which was triturated with cold hexane and filtered to give the title compound (4.2 g) as a solid, m.p. 133°-135°.

reactant | thionyl chloride | 1.3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-methyl-1-(triphenylmethyl)-1H-imidazole-4-methanol | 5.0 g | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CO | C24H22N2O
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-(Chloromethyl)-5-methyl-1-(triphenylmethyl)-1H-imidazole | 5 g | ClCC=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H21ClN2
